US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile (#107)
(3S)-3-(Dimethylamino)pyrrolidine (123 μl, 0.970 mmol) and triethylamine (135 μl, 0.970 mmol) were added to a dimethyl sulfoxide (6 ml) solution of 7-fluoro-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile (I-209) (213 mg, 0.647 mmol), followed by stirring in an oil bath at 95° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (100 ml), then washed with water (50 ml) and saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration, the residue was purified by silica gel column chromatography (eluent, chloroform/methanol=10:1), and the eluate was recrystallized from isopropanol to obtain the entitled compound (190 mg, 69.4%) as a yellow crystal.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.970 mmol, 123 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.970 mmol, 135 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)C=2C=NC=CC2)C#N)C)C2=CC=CC=C2 | C20H12FN3O
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile | 190 mg, 69.4% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C=2C=NC=CC2)C#N)C)C2=CC=CC=C2)C | C26H25N5O
